US08835411B2
(8-Fluoro-1,4-dioxaspiro[4.5]decan-8-yl)methanol
To a solution of crude ethyl 8-fluoro-1,4-dioxaspiro[4.5]decane-8-carboxylate, Intermediate 30, (16.26 g, 70 mmol calculated based on previous reaction, 1 equiv) in THF (100 mL) was added LiBH4 (45.5 mL of a 2 M solution in THF, 91 mmol, 1.3 equiv) followed by MeOH (3.68 mL, 91 mmol, 1.3 equiv). Significant warming was observed following MeOH addition. The reaction was stirred 30 min at which time TLC showed no ester remaining. The reaction was poured into a saturated aqueous solution of NaHCO3 and the aqueous solution was extracted with ether (×3). The combined ether layers were dried (MgSO4) and concentrated in vacuo. The crude product was purified by silica gel chromatography (30-90% ethyl acetate/hexane) to provide the title compound (7.50 g, 56% yield for 2 steps) as a pale yellow oil. 1H NMR (400 MHz, CDCl3) δ ppm 3.90-4.03 (m, 4H), 3.64 (d, J=6.78 Hz, 1H), 3.59 (d, J=6.78 Hz, 1H), 1.97-2.09 (m, 2H), 1.84-1.95 (m, 2H), 1.62-1.80 (m, 4H); 19F NMR (376 MHz, CDCl3) δ ppm −171.25 (br. s., 1F).

reactant | ethyl 8-fluoro-1,4-dioxaspiro[4.5]decane-8-carboxylate | FC1(CCC2(OCCO2)CC1)C(=O)OCC | C11H17FO4
reactant | LiBH4 | [Li+].[BH4-]
reactant | MeOH | 91 mmol, 3.68 mL, 1.3 equiv | CO | CH4O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (8-Fluoro-1,4-dioxaspiro[4.5]decan-8-yl)methanol | 7.50 g, 56% yield | FC1(CCC2(OCCO2)CC1)CO | C9H15FO3
